US08030304B2
4-chloro-2-morpholino-thiazole
To a mixture of 2,4-dichlorothiazole (34 g, 0.22 mol) in acetonitrile (425 mL) add potassium carbonate (60.9 g, 0.44 mol) and then morpholine (21.2 mL, 0.225 mol) dropwise over 30 min. Reflux the mixture at 40° C. and then cool to 22° C. Filter the mixture and evaporate the filtrate. Triturate the residue with i-propyl alcohol (60 mL) at 22° C. for one hour. Filter the solids and dry under vacuum to a constant weight to afford the title compound (34.5 g, 76%). ES/MS m/z (35Cl) 205 (M+1)+.

reactant | 2,4-dichlorothiazole | 0.22 mol, 34 g | ClC=1SC=C(N1)Cl | C3HCl2NS
reactant | potassium carbonate | 0.44 mol, 60.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.225 mol, 21.2 mL | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 425 mL | C(C)#N | C2H3N
product | 4-chloro-2-morpholino-thiazole | 34.5 g, 76% | ClC=1N=C(SC1)N1CCOCC1 | C7H9ClN2OS
